US07521451B2
3,5-dimethylphthalic anhydride
4,6-dimethyl-2-pyrone (1.0 g, 8.1 mmol) and 2-chloromaleic anhydride (1.5 g, 11 mmol) were stirred with heating at 160° C. for 3 hrs, and the precipitated crystals were purified by silica gel chromatography (chloroform) to give 0.91 g of the title compound.

reactant | 4,6-dimethyl-2-pyrone | 8.1 mmol, 1.0 g | CC1=CC(OC(=C1)C)=O | C7H8O2
reactant | 2-chloromaleic anhydride | 11 mmol, 1.5 g | Cl/C=1/C(=O)OC(\C1)=O | C4HClO3
product | 3,5-dimethylphthalic anhydride | 0.91 g | CC1=C2C(C(=O)OC2=O)=CC(=C1)C | C10H8O3
